US08058245B2
1-[3-(2-Phenylethyl)benzo[b]thiophen-5-yl]-1-deoxy-6-O-ethoxycarbonyl-β-D-glucopyranose
To a solution of 1-[3-(2-phenylethyl)benzo[b]-thiophen-5-yl]-1-deoxy-β-D-glucopyranose (0.19 g) in 2,4,6-trimethylpyridine (2 mL) was added ethyl chloroform ate (1.1 mL) at 0° C., and the mixture was stirred at room temperature for 7 hours. The reaction mixture was poured into 10% citric acid aqueous solution, and the mixture was extracted with ethyl acetate. The organic layer washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1) to give the title compound (0.16 g).

reactant | 1-[3-(2-phenylethyl)benzo[b]-thiophen-5-yl]-1-deoxy-β-D-glucopyranose | 0.19 g | C1(=CC=CC=C1)CCC=1C2=C(SC1)C=CC(=C2)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C22H24O5S
reactant | ethyl chloroform ate | 1.1 mL | ClC(=O)OCC | C3H5ClO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 2,4,6-trimethylpyridine | 2 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 1-[3-(2-Phenylethyl)benzo[b]thiophen-5-yl]-1-deoxy-6-O-ethoxycarbonyl-β-D-glucopyranose | 0.16 g | C1(=CC=CC=C1)CCC=1C2=C(SC1)C=CC(=C2)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)COC(=O)OCC | C25H28O7S
